US06716863B2
(iv) (2S)-3-(1H-imidazol-2-yl)-1,2-propanediol
(2S)-1-(benzyloxy)-3-(1H-imidazol-2-yl)-2-propanol (1.725 g) was dissolved in ethanol (30 ml); 10% palladium carbon (1.04 g) was added, followed by vigorous stirring in a hydrogen atmosphere at 60° C. and 5 atm for 24 hours. The catalyst was filtered off and the solvent was distilled off; the residue was purified by silica gel flush column chromatography to yield the titled compound (0.945 g).

reactant | (2S)-1-(benzyloxy)-3-(1H-imidazol-2-yl)-2-propanol | 1.725 g | C(C1=CC=CC=C1)OC[C@H](CC=1NC=CN1)O | C13H16N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium carbon | 1.04 g | [C].[Pd]
product | (2S)-3-(1H-imidazol-2-yl)-1,2-propanediol | 0.945 g | N1C(=NC=C1)C[C@@H](CO)O | C6H10N2O2
